US05395946
A solution of 35 g 4-chlorobutyrylchloride in 100 ml of diethylether is added dropwise to a stirred solution of 19 g tert-butylamine and 28 g triethylamine in 400 ml of diethylether. After reflux for one hour the mixture is poured into water, the organic phase is separated and the water layer is extracted with diethylether. The combined organic phase is successively washed with water and saturated NaCl solution, and then dried. After evaporating the solvent, 4-chloro-N-tert-butylbutyric amide is obtained in a yield of 40.8 g. The product can be purified by recrystallization from methanol: m.p. 62.5°-64° C.

reactant | 4-chlorobutyrylchloride | 35 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | tert-butylamine | 19 g | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 28 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethylether | 400 ml | C(C)OCC | C4H10O
product | 4-chloro-N-tert-butylbutyric amide | ClCCCC(=O)NC(C)(C)C | C8H16ClNO
